US07041687B2
3-(3-Chlorobenzoylamino)-5-nitroindazole-1-carboxylic acid tert-butyl ester:
3-Amino-5-nitroindazole-1-carboxylic acid tert-butyl ester (600 mg, 2 mmol) was dissolved in dry pyridine (15 mL) under nitrogen. The solution was cooled on an ice bath and 3-chlorobenzoyl chloride (0.3 mL, 2 mmol) added. After 6 hours, the mixture was diluted with EtOAc, washed with 1M hydrochloric acid solution (×3) and brine then dried over magnesium sulfate and concentrated to a solid. Purification by column chromatography (silica, 7:3 petrol)-EtOAc) afforded the title compound as a solid (300 mg, 39%); 1H NMR (400 MHz, CDCl3) 1.77 (9H, s), 7.52 (1H, t), 7.62 (1H, d), 7.90 (1H, d), 8.07 (1H, m), 8.32 (1H, d), 8.45 (1H, d), 9.22 (1H, brs), 9.32 (1H, s); MS (ES+) m/e=417.

reactant | 3-Amino-5-nitroindazole-1-carboxylic acid tert-butyl ester | 2 mmol, 600 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])N | C12H14N4O4
reactant | 3-chlorobenzoyl chloride | 2 mmol, 0.3 mL | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-Chlorobenzoylamino)-5-nitroindazole-1-carboxylic acid tert-butyl ester | 300 mg, 39% | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])NC(C1=CC(=CC=C1)Cl)=O | C19H17ClN4O5
